US08349880B2
Step E (2): Iodomethane (0.860 mL, 13.82 mmol) was added to a mixture of 2-(3-chloro-1H-1,2,4-triazol-1-yl)-5-nitrophenol (1.33 g, 5.53 mmol), potassium hydroxide (0.388 g, 6.91 mmol), and DMSO (25 mL). The mixture was left to stir at rt for 24 h. The reaction mixture was poured into water (250 mL) and extracted with EtOAc (3×100 mL). The combined extracts were washed with water, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified using silica gel column chromatography (0-1% MeOH/chloroform, linear gradient over 72 min, flow 25 mL/min). The pure fractions were combined and concentrated to afford 3-chloro-1-(2-methoxy-4-nitrophenyl)-1H-1,2,4-triazole (0.924 g, 3.63 mmol, 65.6% yield) as a light yellow solid. LC-MS (M+H)+=255.0. 1H NMR (500 MHz, chloroform-d) δ ppm 8.35 (s, 1 H) 7.36 (d, J=8.55 Hz, 1 H) 6.29-6.34 (m, 2 H) 3.80 (s, 3 H) 2.46 (s, 3 H).

reactant | Iodomethane | 13.82 mmol, 0.860 mL | IC | CH3I
reactant | 2-(3-chloro-1H-1,2,4-triazol-1-yl)-5-nitrophenol | 5.53 mmol, 1.33 g | ClC1=NN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])O | C8H5ClN4O3
reactant | potassium hydroxide | 6.91 mmol, 0.388 g | [OH-].[K+]
reactant | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | 250 mL | O | H2O
product | 3-chloro-1-(2-methoxy-4-nitrophenyl)-1H-1,2,4-triazole | 3.63 mmol, 0.924 g, 65.6% yield | ClC1=NN(C=N1)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H7ClN4O3
